US04061647
4-(2,4-Dichloro-5-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide
7 g of 2-bromo-2',4'-dichloro-5'-sulfamoyl-acetophenone and 2.5 g of 1,3-dimethyl-thiourea were allowed to react for 20 hours in 50 ml of methanol, the precipitate of 4-(2,4-dichloro-5-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide was filtered off and washed with acetone.

reactant | 2-bromo-2',4'-dichloro-5'-sulfamoyl-acetophenone | 7 g | BrCC(=O)C1=C(C=C(C(=C1)S(N)(=O)=O)Cl)Cl | C8H6BrCl2NO3S
reactant | 1,3-dimethyl-thiourea | 2.5 g | CNC(=S)NC | C3H8N2S
solvent | methanol | 50 ml | CO | CH4O
product | 4-(2,4-Dichloro-5-sulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C(=C1)Cl)S(N)(=O)=O)C1(N(C(SC1)=NC)C)O | InChI=1S/C11H13Cl2N3O3S2.BrH/c1-15-10-16(2)11(17,5-20-10)6-3-9(21(14,18)19)8(13)4-7(6)12;/h3-4,17H,5H2,1-2H3,(H2,14,18,19);1H
